US07053060B2
To a solution of triethyl phosphonoacetate (0.89 mL) in tetrahydrofuran (30 mL) was added potassium tert-butoxide (0.50 g), and the mixture was stirred at room temperature for 15 minutes. A solution of 4-(2-benzyloxybenzyl)benzaldehyde (1.0 g) in tetrahydrofuran (10 mL) was added to the reaction mixture, and the mixture was stirred at room temperature for 6 hours. To the reaction mixture was added dilute hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=10/1) to give ethyl (E)-3-[4-(2-benzyloxybenzyl)phenyl]acrylate (0.86 g). To the obtained ethyl (E)-3-[4-(2-benzyloxybenzyl)phenyl]acrylate (0.86 g) were added trifluoroacetic acid (9.5 mL), water (0.5 mL) and dimethyl sulfide (1.0 mL), and the mixture was stirred at room temperature overnight. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=3/1) to give ethyl (E)-3-[4-(2-hydroxybenzyl)phenyl]acrylate (0.51 g).

reactant | ethyl (E)-3-[4-(2-benzyloxybenzyl)phenyl]acrylate | 0.86 g | C(C1=CC=CC=C1)OC1=C(CC2=CC=C(C=C2)/C=C/C(=O)OCC)C=CC=C1 | C25H24O3
reactant | trifluoroacetic acid | 9.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | dimethyl sulfide | 1.0 mL | CSC | C2H6S
solvent | water | 0.5 mL | O | H2O
product | ethyl (E)-3-[4-(2-hydroxybenzyl)phenyl]acrylate | 0.51 g | OC1=C(CC2=CC=C(C=C2)/C=C/C(=O)OCC)C=CC=C1 | C18H18O3
